US07456169B2
4-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-morpholine
4-morpholinophenol (0.358 g, 2 mmol) in DMF (5 mL) was cooled to 0° C. To this solution was added 60% NaH (0.192 g, 4.8 mmol). After the bubbling ceased, 2-(2-bromo-ethoxy)-tetrahydro-pyran (0.501 g, 2.4 mmol) in DMF (2 mL) was added to the above solution. The solution was stirred at room temperature for 2 hours, and partitioned between EtOAc and water. The aqueous layer was extracted with additional EtOAc, and the combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel eluting with 7:3 hexanes/EtOAc to give 0.48 g of the title compound (78%).

reactant | 4-morpholinophenol | 2 mmol, 0.358 g | O1CCN(CC1)C1=CC=C(C=C1)O | C10H13NO2
reactant | NaH | 4.8 mmol, 0.192 g | [H-].[Na+]
reactant | 2-(2-bromo-ethoxy)-tetrahydro-pyran | 2.4 mmol, 0.501 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-morpholine | 0.48 g, 78% | O1C(CCCC1)OCCOC1=CC=C(C=C1)N1CCOCC1 | C17H25NO4
